US07230017B2
5-(Trifluoromethyl)-3-pyridinamine
Prepared according to the method of Barlin et al., Aust. J Chem., 1990, 43, 1175: 3-Chloro-5-(trifluoromethyl)pyridine (3.0 g, 16.52 mmol) is suspended in water (67.5 ml) and treated with copper(I)chloride (8.18 g, 82.62 mmol). Aqueous ammonia solution (25%, 67.5 ml) is added, and the reaction is stirred for 48 hours at 170° C. in the autoclave. The reaction mixture is cooled to room temperature and extracted three times with dichloromethane. The combined organic phases are washed with brine, dried with magnesium sulphate, filtered and concentrated in vacuo to yield analytically pure product.

reactant | 3-Chloro-5-(trifluoromethyl)pyridine | 16.52 mmol, 3.0 g | ClC=1C=NC=C(C1)C(F)(F)F | C6H3ClF3N
reactant | ammonia | 67.5 ml | N | H3N
solvent | water | 67.5 ml | O | H2O
catalyst | copper(I)chloride | 82.62 mmol, 8.18 g | [Cu]Cl
product | 5-(Trifluoromethyl)-3-pyridinamine | FC(C=1C=C(C=NC1)N)(F)F | C6H5F3N2
